US04880804
Part A: Preparation of 1-(4-Nitrobenzyl)-2-hydroxymethylbenzimidazole
To a solution of 3 g of 2-hydroxymethylbenzimidazole in 20 mL of dried DMF at 0° was added portionwise 1 g of NaH (50% oil dispersion). After stirring at room temperature for 15 minutes, 4.3 g of p-nitrobenzyl bromide was added. The reaction mixture was stirred for 16 hours and then diluted with ethyl acetate and washed with water. The organic layers were dried and evaporated. Recrystallization from acetonitrile afforded 3.5 g of a brownish solid; m.p. 162.5-165°.

reactant | 2-hydroxymethylbenzimidazole | 3 g | OCC=1NC2=C(N1)C=CC=C2 | C8H8N2O
reactant | NaH | 1 g | [H-].[Na+]
reactant | p-nitrobenzyl bromide | 4.3 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Nitrobenzyl)-2-hydroxymethylbenzimidazole | 3.5 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC3=C2C=CC=C3)CO)C=C1 | C15H13N3O3
